US09238644B2
(a) 1-(2-((2,5-Dichloropyrimidin-4-yl)ethynyl)phenyl)cyclopropanecarboxamide (A13)
PdCl2(PPh3)2 (16 mg, 0.023 mmol) was added to a stirred solution of 1-(2-ethynylphenyl)cyclopropanecarboxamide (K6) (0.420 g, 2.26 mmol), 2,4,5-trichloropyrimidine (0.338 mL, 2.94 mmol), Et3N (1.26 mL, 9.07 mmol) and copper(I) iodide (8.6 mg, 0.045 mmol) in 1,4-dioxane (4.5 mL). The resulting mixture was stirred at 60° C. for 2.5 hours under a nitrogen atmosphere before being diluted with petroleum benzine 40-60° C. (25 mL). The resultant precipitate was filtered, dried, washed with water (50 mL) and dried to give the title compound A13 as light coloured tan solid (0.570 g, 75%); 1H NMR (300 MHz, d6-DMSO) δ 9.01 (s, 1H), 7.72 (d, J=7.1 Hz, 1H), 7.41-7.57 (m, 3H), 6.97 (brs, 1H), 6.20 (brs, 1H), 1.53 (dq, J=4.0 Hz, 2H) 1.06 (dq, J=3.7 Hz, 2H). LCMS-B: rt 6.593 min; m/z 332 [M+H]+.

reactant | 1-(2-ethynylphenyl)cyclopropanecarboxamide | 2.26 mmol, 0.420 g | C(#C)C1=C(C=CC=C1)C1(CC1)C(=O)N | C12H11NO
reactant | 2,4,5-trichloropyrimidine | 2.94 mmol, 0.338 mL | ClC1=NC=C(C(=N1)Cl)Cl | C4HCl3N2
reactant | Et3N | 9.07 mmol, 1.26 mL | CCN(CC)CC | C6H15N
solvent | 1,4-dioxane | 4.5 mL | O1CCOCC1 | C4H8O2
catalyst | PdCl2(PPh3)2 | 0.023 mmol, 16 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper(I) iodide | 0.045 mmol, 8.6 mg | [Cu]I
product | 1-(2-((2,5-Dichloropyrimidin-4-yl)ethynyl)phenyl)cyclopropanecarboxamide | ClC1=NC=C(C(=N1)C#CC1=C(C=CC=C1)C1(CC1)C(=O)N)Cl | C16H11Cl2N3O
